US06734180B1
To acetic anhydride (4.7 ml) under ice cooling, formic acid (4.7 ml) was added dropwise, to which 2-aminothiophene-3-carboxylic acid ethyl ester (2.8 g, 16.4 mmol) was added and stirred at room temperature for 2 hours. After the solvent was distilled off under reduced pressure, ether was added, and the precipitate that deposited was filtered off. Ether was distilled off under reduced pressure to obtain 2-formylaminothiophene-3-carboxylic acid ethyl ester (3.0 g, 15.3 mmol).

reactant | acetic anhydride | 4.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-aminothiophene-3-carboxylic acid ethyl ester | 16.4 mmol, 2.8 g | C(C)OC(=O)C1=C(SC=C1)N | C7H9NO2S
solvent | formic acid | 4.7 ml | C(=O)O | CH2O2
product | 2-formylaminothiophene-3-carboxylic acid ethyl ester | 15.3 mmol, 3.0 g | C(C)OC(=O)C1=C(SC=C1)NC=O | C8H9NO3S
